US07932293B2
1-(2-methyl-allyloxy)-2-methylbutane:
In a 3000 mL reaction flask was charged 2-methyl-1-butanol (440 g, 5.0 mol), a 40% by weight in water solution of tetrabutyl ammonium hydroxide (100 g, 0.15 mol), and a 50% by weight solution of NaOH (488 g, 6.1 mol). The mixture was heated to 70° C. and 3-chloro-2-propene (550 g, 6.1 mol) was fed into the reaction over 3 hours. The reaction was aged for 7 hours at 70° C., then cooled to room temperature. The reaction was quenched with 600 mL of water, and the layers separated. The organic layer washed with 600 mL water and 600 mL of brine. The crude product was purified by distillation to give 482 g of ether, a 68% yield.

reactant | 2-methyl-1-butanol | 5.0 mol, 440 g | CC(CO)CC | C5H12O
reactant | tetrabutyl ammonium hydroxide | 0.15 mol, 100 g | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | NaOH | 6.1 mol, 488 g | [OH-].[Na+]
reactant | 3-chloro-2-propene | 6.1 mol, 550 g | ClC=CC | C3H5Cl
solvent | water | O | H2O
product | 1-(2-methyl-allyloxy)-2-methylbutane | 68% yield | CC(COCC(CC)C)=C | C9H18O
